US05821245
A mixture of 1-(1-methylpiperidin-4-yl)-7-trifluoromethanesulfonyloxynaphthalene (0.25 g, 0.67 mmol), triethylamine (0.373 mL, 2.68 mmol), 3-phenylpropylamine (0.286 mL, 2.01 mmol), and bis-(triphenylphosphine)palladium chloride (0.025 g, 0.033 mmol) was blanketed with an atmosphere of carbon monoxide (balloon) and heated to 105° C. for 16 h. The reaction was diluted with ethyl acetate and filtered through celite. The filtrate was washed with water and brine, dried and concentrated. The residue was flash chromatographed on silica gel (1×3 inches packed with 75% ethyl acetate/hexane). Elution proceeded as follows: 75% ethyl acetate/hexane, 150 mL, nil; ethyl acetate, 150 mL, nil; 2% methanol/1% triethylamine/ethyl acetate, 200 mL and 2% methanol/1% triethylamine/ethyl acetate, 100 mL, 0.21 g of an oil. Bulb to bulb distillation removed impurities (pot temperature up to 120° C., 1 mm mercury (Hg)). The pot residue was pure product and weighed 0.190 g (73%). The 1-(1-methylpiperidin-4-yl)-7-naphthalene carboxylic acid 3-phenylpropyl amide obtained in this manner solidified on standing and had mp 47°-50° C.; 1H NMR (250 MHz, CDCl3) δ 8.67 (s, 1H), 7.86 (d, J=8.5 Hz, 1H), 7.73 (d, J=6.5 Hz, 1H), 7.61-7.43 (m, 3H), 7.36-7.18 (m, 5H), 6.33 (br s, 1H), 3.58 (q, J=6.5 Hz, 2H), 3.42 (sym m, 1H), 3.05 (br d, J=11.5 Hz, 2H), 2.77 (t, J=7.5 Hz, 2H), 2.38 (s, 3H), 2.27 (sym m, 2H), 2.10-1.88 (m, 6H). Analysis calculated for C26 H30N2O·0.75 H2O: C, 78.06; H, 7.94; N, 7.00. Found: C, 77.92; H, 7.91; N, 6.70.

reactant | 1-(1-methylpiperidin-4-yl)-7-trifluoromethanesulfonyloxynaphthalene | 0.67 mmol, 0.25 g | CN1CCC(CC1)C1=CC=CC2=CC=C(C=C12)OS(=O)(=O)C(F)(F)F | C17H18F3NO3S
reactant | triethylamine | 2.68 mmol, 0.373 mL | C(C)N(CC)CC | C6H15N
reactant | 3-phenylpropylamine | 2.01 mmol, 0.286 mL | C1(=CC=CC=C1)CCCN | C9H13N
reactant | carbon monoxide | [C]=O | CO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | bis-(triphenylphosphine)palladium chloride | 0.033 mmol, 0.025 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 1-(1-methylpiperidin-4-yl)-7-naphthalene carboxylic acid 3-phenylpropyl amide | C1(=CC=CC=C1)CCCNC(=O)C1=CC=C2C=CC=C(C2=C1)C1CCN(CC1)C | C26H30N2O
